US03956325
To a solution of 1,2,3,6-tetrahydro-1-methyl-5-phenyl-5-(2-pyridyl)-4(5H)-pyrimidinone in benzene is added 0.16 equivalent of phosphorus pentasulfide. The reaction mixture is heated gently for 30 minutes then water is added and the layers are separated. The aqueous layer is extracted again with benzene and the organic layers are combined, washed with water, dried (MgSO4) and concentrated in vacuo to give 1,2,3,6-tetrahydro-1-methyl-5-phenyl-5-(2-pyridyl)-4(5H)-pyrimidinethione.

reactant | 1,2,3,6-tetrahydro-1-methyl-5-phenyl-5-(2-pyridyl)-4(5H)-pyrimidinone | CN1CNC(C(C1)(C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H17N3O
reactant | phosphorus pentasulfide | 0.16 equivalent | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,2,3,6-tetrahydro-1-methyl-5-phenyl-5-(2-pyridyl)-4(5H)-pyrimidinethione | CN1CNC(C(C1)(C1=NC=CC=C1)C1=CC=CC=C1)=S | C16H17N3S
